US06846832B2
j) 6-(3-Fluoro-benzyloxy)-2,3-dihydro-isoindol-1-one
A mixture of 6-hydroxy-2,3-dihydro-isoindol-1-one (125.0 mg, 0.84 mmol) and 3-fluorobenzylbromide (174.3 mg, 0.92 mmol) in acetone (5 mL) containing potassium carbonate (276.4 mg, 2.0 mmol) was heated under reflux for 17 h. After cooling to RT the mixture was filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2:2N NH3-MeOH 90:10) to afford the title product (180 mg, 83%) as a white solid. MS m/e=258.2 (M+H+).

reactant | 6-hydroxy-2,3-dihydro-isoindol-1-one | 0.84 mmol, 125.0 mg | OC1=CC=C2CNC(C2=C1)=O | C8H7NO2
reactant | 3-fluorobenzylbromide | 0.92 mmol, 174.3 mg | FC=1C=C(CBr)C=CC1 | C7H6BrF
reactant | potassium carbonate | 2.0 mmol, 276.4 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 6-(3-Fluoro-benzyloxy)-2,3-dihydro-isoindol-1-one | 180 mg, 83% | FC=1C=C(COC2=CC=C3CNC(C3=C2)=O)C=CC1 | C15H12FNO2
